US08258141B2
Step 3: 1-[6-{[Bis-(4-methoxy-phenyl)-methyl]-amino}-9-((1R,2S,3R,4S)-2,3-dihydroxy-4-propionylamino-cyclopentyl)-9H-purin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester
To a solution of N-[(1S,2R,3S,4R)-4-(6-{[Bis-(4-methoxy-phenyl)-methyl]-amino}-2-hydrazino-purin-9-yl)-2,3-dihydroxy-cyclopentyl]-propionamide (0.1 g, 0.177 mmol) in dry ethyl alcohol (5 ml) is added 2-formyl-3-oxo-propionic acid ethyl ester (synthesised from ethyl-3,3-diethoxy-propionate, as described in: Bertz S. H., Dabbagh G. and Cotte P.; J. Org. Chem. (1982) 47, pp 2216-2217) (0.033 g, 0.231 mmol). The reaction mixture is heated at reflux for 8 hours then concentrated in vacuo. The crude residue is purified by chromatography on silica (60-120 mesh) eluting with 3% methanol in chloroform to afford the title compound. LC-MS (0.1% formic acid, acetonitrile): (MH+ 671).

reactant | N-[(1S,2R,3S,4R)-4-(6-{[Bis-(4-methoxy-phenyl)-methyl]-amino}-2-hydrazino-purin-9-yl)-2,3-dihydroxy-cyclopentyl]-propionamide | 0.177 mmol, 0.1 g | COC1=CC=C(C=C1)C(C1=CC=C(C=C1)OC)NC1=C2N=CN(C2=NC(=N1)NN)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CC)=O)O)O | C28H34N8O5
reactant | 2-formyl-3-oxo-propionic acid ethyl ester | 0.231 mmol, 0.033 g | C(C)OC(C(C=O)C=O)=O | C6H8O4
solvent | ethyl alcohol | 5 ml | C(C)O | C2H6O
product | 1-[6-{[Bis-(4-methoxy-phenyl)-methyl]-amino}-9-((1R,2S,3R,4S)-2,3-dihydroxy-4-propionylamino-cyclopentyl)-9H-purin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NN(C1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CC)=O)O)O)NC(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C34H38N8O7
